US05498367
1.45 ml of an about 1.6M butyllithium solution in hexane were added dropwise at -50° C. to a solution of 0.5 g of 4-(trans-4-propylcyclohexyl)phenylacetylene in 5 ml of dry tetrahydrofuran and the mixture was left to react at this temperature for 30 min. Then, 4.4 ml of a 1M zinc chloride solution in ether were added dropwise, the cooling bath was removed and the mixture was left to react for 30 minutes. Thereupon, the mixture was cooled to 0° C. and at this temperature a solution of 0.95 g of dibutyl (4R,5R)-2-(4-bromophenyl)-1,3-dioxolane-4,5-dicarboxylate in 5 ml of dry tetrahydrofuran was added dropwise and thereafter 0.128 g of tetrakis(triphenylphosphine) palladium(O) was added. The reaction mixture was then heated to 60° C. for 15 hours., then cooled, partitioned between water and ether and the organic phase was separated and dried over magnesium sulfate. Thereupon, it was filtered over Celite, the solvent was evaporated and the residue was chromatographed on 100 g of silica gel with 5% ethyl acetate in cyclohexane. Further purification with active charcoal in isopropanol and two-fold crystallization from isopropanol gave 0.23 g of dibutyl (4R,5R)-2-{4-[4-(trans-4-propylcyclohexyl)phenylethynyl]phenyl}-1,3-dioxolane-4,5-dicarboxylate, m.p. (K-N*) 74.9° C., cl.p. (N*-I) 78.3° C.

reactant | butyllithium | about 1.6M | C(CCC)[Li]
reactant | 4-(trans-4-propylcyclohexyl)phenylacetylene | 0.5 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C#C | C17H22
reactant | dibutyl (4R,5R)-2-(4-bromophenyl)-1,3-dioxolane-4,5-dicarboxylate | 0.95 g | BrC1=CC=C(C=C1)C1O[C@H]([C@@H](O1)C(=O)OCCCC)C(=O)OCCCC | C19H25BrO6
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 1M | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine) palladium(O) | 0.128 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | dibutyl (4R,5R)-2-{4-[4-(trans-4-propylcyclohexyl)phenylethynyl]phenyl}-1,3-dioxolane-4,5-dicarboxylate | 0.23 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C1O[C@H]([C@@H](O1)C(=O)OCCCC)C(=O)OCCCC | C36H46O6
